US07157447B2
A stirred solution of intermediate 65, 2-[3-(3-trifluoromethyl-diaziridin-3-yl)-benzyl]-isoindole-1,3-dione, (150 mg, 0.43 mmol) in ethanol (2 mL) was treated with hydrazine hydrate (0.4 mL) at room temperature and the solution stirred for 3.5 hrs. After removing ethanol in vacuo, the residue was partitioned between CH2Cl2 and water. The aqueous phase was acidified with dilute HCl, and washed with CH2Cl2. The aqueous phase was basified with dilute NaOH, and extracted with CH2Cl2. The organic extract was dried (MgSO4), filtered, and concentrated to obtain 50 mg (Yield 54%) of (3-(3-(trifluoromethyl)diaziridin-3-yl)phenyl)methanamine and (3-(3-(trifluoromethyl)-3H-diazirin-3-yl)phenyl)methanamine as a 1:1 mixture; 1H NMR (300 MHz, CDCl3) δ ppm: 3.85 (2H, s) 3.88 (2H, s) 7.08 (2H, s) 7.31–7.40 (4H, m) 7.43–7.50 (1H, m, J=6.2 Hz) 7.54 (1H, s); LC/MS m/z 216 (M+H for diazirine) and 218 (M+H for diaziridine).

reactant | 2-[3-(3-trifluoromethyl-diaziridin-3-yl)-benzyl]-isoindole-1,3-dione | 0.43 mmol, 150 mg | FC(C1(NN1)C=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1)(F)F | C17H12F3N3O2
reactant | hydrazine hydrate | 0.4 mL | O.NN
reactant | (3-(3-(trifluoromethyl)-3H-diazirin-3-yl)phenyl)methanamine | FC(C1(N=N1)C=1C=C(C=CC1)CN)(F)F | C9H8F3N3
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (3-(3-(trifluoromethyl)diaziridin-3-yl)phenyl)methanamine | 50 mg, Yield 54% | FC(C1(NN1)C=1C=C(C=CC1)CN)(F)F | C9H10F3N3
